US05703110
20a) N-(2-Methoxyphenyl)methylidenecyclohexylamine
A solution of anisaldehyde (21 g) and cyclohexylamine (15 g) in chloroform (100 ml) was stirred at room temperature for 2 hours and evaporated to afford brown syrup (35 g, quantitative).

reactant | anisaldehyde | 21 g | COC=1C=CC(=CC1)C=O | C8H8O2
reactant | cyclohexylamine | 15 g | C1(CCCCC1)N | C6H13N
reactant | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(2-Methoxyphenyl)methylidenecyclohexylamine | COC1=C(C=CC=C1)C=NC1CCCCC1 | C14H19NO
